US04971984
0.205 ml of triethylamine (1,476 mmol.) and 0.133 ml of methoxyethoxymethylchloride (MEM-Cl) (1,476 mmol.) are added to a solution of 3,5-dicarboethoxy-6-methyl-2-mercaptomethyl-4-(m-nitrophenyl)-1,4-dihydropyridine (400 mg, 0,984 mmol.) in anhydrous THF. The mixture is left to react for 30' at room temperature under nitrogen atmosphere. The reaction mixture is diluted with a mixture of ethyl acetate-water 1:1 (100 ml) and the phases are separated: the organic phase is washed with a 5% sodium bicarbonate solution (3×20 ml) and water (2×20 ml), dried on sodium sulphate, filtered and the solvent is evaporated under reduced pressure, yielding 422 mg of 3,5-dicarboethoxy-6-methyl-2-(methoxyethoxy-methylthiomethyl)-4-(m-nitrophenyl)-1,4-dihydropyridine, as a glassy yellow oil.

reactant | triethylamine | 1,476 mmol, 0.205 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyethoxymethylchloride | 1,476 mmol, 0.133 ml | COCCOCCl | C4H9ClO2
reactant | 3,5-dicarboethoxy-6-methyl-2-mercaptomethyl-4-(m-nitrophenyl)-1,4-dihydropyridine | 0,984 mmol, 400 mg | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)CS | C19H22N2O6S
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate water | 100 ml | C(C)(=O)OCC.O
product | 3,5-dicarboethoxy-6-methyl-2-(methoxyethoxy-methylthiomethyl)-4-(m-nitrophenyl)-1,4-dihydropyridine | 422 mg | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)C(SC)OCCOC | C23H30N2O8S
